US09371333B2
4-(4-Allyloxy-3-bromo-5-methoxy-phenyl)-2-amino-4H-benzo[g]chromene-3-carboxylic acid ethyl ester (25)
2-Naphthol (170 g, 1.2 mmol), 4-allyloxy-3-bromo-5-methoxy-benzaldehyde (271 g, 1 mmol) and ethyl cyanoacetate (113 mg, 1 mmol) were taken in 7 ml ethanol at room temperature, charged with piperidine (50 μL) and then stirred at 80° C. under LC-MS control till the reaction was complete. The reaction mixture was cooled down to room temperature, diluted with 10 ml water, stirred for 2 h at room temperature, solids were collected by filtration, washed with 1:1 mixture of ethanol/water and dried (386 mg, 0.76 mmol, 76%).

reactant | 2-Naphthol | 1.2 mmol, 170 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 4-allyloxy-3-bromo-5-methoxy-benzaldehyde | 1 mmol, 271 g | C(C=C)OC1=C(C=C(C=O)C=C1OC)Br | C11H11BrO3
reactant | ethyl cyanoacetate | 1 mmol, 113 mg | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 50 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 4-(4-Allyloxy-3-bromo-5-methoxy-phenyl)-2-amino-4H-benzo[g]chromene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(OC2=CC3=C(C=C2C1C1=CC(=C(C(=C1)OC)OCC=C)Br)C=CC=C3)N | C26H24BrNO5
